US08475937B2
The hydrosilylation reaction of Example 1 was repeated using 5.0 g of 5-allyl-5′-methyl-2,2′-bithiophene in place of 2-allylthiophene, 2.5 g of anhydrous toluene, 6.0 g of trichlorosilane, and 50 mg of Platinum Catalyst. 5-(3-Trichlorosilylpropyl)-5′-methyl-2,2′-bithiophene was obtained as a colorless liquid: 1H NMR (CDCl3) δ 6.92 (d, 1H, J=3.6 Hz); 6.91 (d, 1H, J=2.7 Hz); 6.70 (d, 2H, J=3.6 Hz); 6.65 (m, 1H); 2.91 (t, 2H, J=7.2 Hz); 2.48 (d, 3H, J=1.2 Hz); 1.97 (m, 2H); 1.47 (m, 2H).

reactant | 5-allyl-5′-methyl-2,2′-bithiophene | 5.0 g | C(C=C)C1=CC=C(S1)C=1SC(=CC1)C | C12H12S2
reactant | trichlorosilane | 6.0 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | Platinum | 50 mg | [Pt] | Pt
solvent | toluene | 2.5 g | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Trichlorosilylpropyl)-5′-methyl-2,2′-bithiophene | Cl[Si](CCCC1=CC=C(S1)C=1SC(=CC1)C)(Cl)Cl | C12H13Cl3S2Si
